US03950380
By replacing in Example 1, step G, 3-benzylamino-5-chlorosulfonyl-4-phenylbenzoic acid with 3-allylthio-5-chlorosulfonyl-4-phenylbenzoic acid, and following the procedure described, 3-allylthio-4-phenyl-5-sulfamylbenzoic acid is obtained as a hydrate with a melting point of 78°-81° C.

reactant | 3-benzylamino-5-chlorosulfonyl-4-phenylbenzoic acid | C(C1=CC=CC=C1)NC=1C=C(C(=O)O)C=C(C1C1=CC=CC=C1)S(=O)(=O)Cl | C20H16ClNO4S
reactant | 3-allylthio-5-chlorosulfonyl-4-phenylbenzoic acid | C(C=C)SC=1C=C(C(=O)O)C=C(C1C1=CC=CC=C1)S(=O)(=O)Cl | C16H13ClO4S2
product | 3-allylthio-4-phenyl-5-sulfamylbenzoic acid | C(C=C)SC=1C=C(C(=O)O)C=C(C1C1=CC=CC=C1)S(N)(=O)=O | C16H15NO4S2
